US20010020034A1
(4-Carbamoyl-3-hydroxy-isothiazol-5-yl)-carbamic acid phenyl ester
The wet solid, (3-Benzyloxy-4-cyano-isothiazol-5-yl)-carbamic acid phenyl ester, (320 g) was added slowly to concentrated sulfuric acid (650 mL) over 1.5 hours. Additional concentrated sulfuric acid (100 mL) was added and the mixture stirred a further 3 hours. The viscous solution was diluted by slow addition of ice (2000 g) followed by vigorous stirring for an additional 2 hours. The acid was partially removed by dividing the suspension into eight containers that were placed in a centrifuge, spun at 3000 rpm for 45 minutes at 21° C. The aqueous layer was discarded, additional pure water was added, the pellet resuspended, and the process repeated. After seven dilution/centrifugation/redilution cycles, the pH of the aqueous layer had increased to ˜4 and the solid was collected and dried by drawing air through a cake in a funnel for 2 days. The less-wet solid was crushed, placed again in the filter, and air was again drawn through the solid for another day. This process was repeated until the solid was dry to afford a tan solid (234 g, 105% over two steps, minor impurities present—did not interfere appreciably with the subsequent steps). 1H NMR (400 MHz, DMSO) δ 7.00 (broad s, 1H), 7.27-7.31 (m, 3H), 7.40-7.45 (m, 2H), 7.89 (s, 1H), 8.08 (s, 1H), 11.92 (s, 1H); MS (APCl, m/z): 184 [M-(H and PhOH)]−.

reactant | (3-Benzyloxy-4-cyano-isothiazol-5-yl)-carbamic acid phenyl ester | 320 g | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=CC=CC=C1)C#N)=O | C18H13N3O3S
reactant | PhOH | C1(=CC=CC=C1)O | C6H6O
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 650 mL | S(O)(O)(=O)=O | H2O4S
product | (4-Carbamoyl-3-hydroxy-isothiazol-5-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)O)C(N)=O)=O | C11H9N3O4S
